data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_144689_1,[C:1]([N:3]([H:9])[H:10])(/[C:4](=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:12])[H:11])([O:6][H:7])[H:8]>>[C:1](=[C:4](/[C:5]([C:2]([H:13])([H:14])[H:15])([N:3]([H:9])[H:10])[H:12])[H:11])(\[O:6][H:7])[H:8],66.55955250002677
MR_668851_0,[C:1]([C:4]12[N:3]([C:5]1=[C:2]([H:12])[H:14])[C:6]2([O:7][H:11])[H:8])([H:9])([H:10])[H:13]>>[C:1]([C:4]1=[C:5]([C:2]([H:11])([H:12])[H:14])[N:3]1[C:6](=[O:7])[H:8])([H:9])([H:10])[H:13],43.97959250000056
MR_323532_1,[C:1]([C:3]([C:2]([C:5]([C:6]([N:7]([H:13])[H:14])=[O:10])([O:8][H:11])[O:9][H:20])([H:15])[H:16])([H:17])[H:18])(=[C:4]([H:19])[H:21])[H:12]>>[C:1]([C:3]([C:2]([C:5]([O:8][H:11])=[O:9])([H:15])[H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([C:6]([N:7]([H:13])[H:14])=[O:10])[H:12],67.08665249998006
MR_264121_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:5](=[N:8]/[H:11])[H:12])/[C:6](=[C:7](\[N:4]([H:9])[H:10])[H:14])[H:13]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])=[C:6]([C:7]([N:4]([H:9])[H:10])(/[C:5](=[N:8]/[H:11])[H:12])[H:14])[H:13],68.19419000000167
MR_220028_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([N:4]([O:6][H:8])[H:9])[O:5][H:7]>>[C:1]([C:2]([H:10])([H:11])[H:12])([N:4]([C:3]([H:13])([H:14])[H:15])[H:9])([O:5][H:7])[O:6][H:8],72.4065974999958
MR_329599_1,[C:1]([C:4](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:7]\[C:3]([N:6]([H:10])[H:11])=[O:8])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]([O:8][C@:3]1([N:6]([H:10])[H:11])[C:5]([C:2]([H:15])([H:16])[H:17])[N:7]1)=[O:9])([H:12])([H:13])[H:14],72.17379500001286
MR_285229_1,[C:1]([C:4]([C:7](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:3]\[H:9])([N:6]([H:10])[H:11])[H:12])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([N:3](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7](/[N:6]([H:10])[H:11])[H:12])[H:9])=[O:8])([H:13])([H:14])[H:15],58.9335450000192
MR_305571_1,[C:1](/[C:3](=[C:2]([C:5](=[N:7]/[H:11])\[H:12])/[O:6][H:8])[N:4]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:4]([H:9])[H:10])[C:2]([O:6][H:8])=[C:5]([H:12])[N:7]1[H:11])([H:13])([H:14])[H:15],43.45186500001319
MR_389754_2,[C:1]([N:4]([N:3]([N:6]([C:2]([H:18])([H:19])[H:20])[H:10])[N:7]([H:11])[H:12])[N:5]([N:8]([H:13])[H:14])[H:9])([H:15])([H:16])[H:17]>>[C:1]([N:4]([N:3]([N:5]([N:8]([H:13])[H:14])[H:9])[N:7]([H:11])[H:12])[N:6]([C:2]([H:18])([H:19])[H:20])[H:10])([H:15])([H:16])[H:17],58.35750000001113
MR_244124_1,[C:1]([N:3](/[C:6](=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:16])[H:15])[H:11])([N:4]([H:12])[H:13])([C:5](=[O:9])[H:14])[O:8][H:10]>>[C:1]1([N:4]([H:12])[H:13])([O:8][H:10])[N:3]([H:11])[C:6]1([C:7]([C:2]([H:17])([H:18])[H:19])([C:5](=[O:9])[H:14])[H:16])[H:15],69.629282499981
MR_173866_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([C:2]([H:10])([H:11])[H:12])=[O:6])([N:5]([H:8])[H:9])[H:7]>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[C:4](/[C:2]([H:10])([H:11])[H:12])[O:6][H:7])[N:5]([H:8])[H:9],69.6449700000484
MR_12394_0,[C:1]([N:3]([N:5][C:4]([C:2]([H:11])([H:12])[H:13])[H:7])[H:6])([H:8])([H:9])[H:10]>>[C:1]([N:3][N:5][C:4]([C:2]([H:11])([H:12])[H:13])([H:6])[H:7])([H:8])([H:9])[H:10],66.068220000001
MR_330384_0,[C:1](=[C:2](/[N:5]=[N:6]\[H:9])[H:10])([O:3][H:8])[O:4][H:7]>>[C:1](/[C:2](=[N:5]\[N:6]([H:7])[H:9])[H:10])([O:3][H:8])=[O:4],20.615257499992907
MR_213825_1,[C:1]1([O:7][H:9])([H:11])[C:2]([O:8][H:10])([H:12])[C:3]([C:5]([H:17])([H:18])[H:19])([H:13])[N:6]1[C:4]([H:14])([H:15])[H:16]>>[C:1]([C:2]([C:3]([C:5]([H:17])([H:18])[H:19])([N:6]([C:4]([H:14])([H:15])[H:16])[H:9])[H:13])([O:8][H:10])[H:12])(=[O:7])[H:11],39.518694999991766
MR_369949_1,[C:1]([C:3]([C:6](=[C:2]([N:4]([H:12])[H:13])[N:5]([H:11])[H:14])[H:15])=[C:7]([H:16])[H:17])([O:8][H:10])=[O:9]>>[C:1]1([O:8][H:10])([O:9][H:11])[C:3](=[C:7]([H:16])[H:17])[C:6]1(/[C:2]([N:4]([H:12])[H:13])=[N:5]/[H:14])[H:15],47.300949999997215
MR_320757_1,[C@@:1]1([O:6][H:8])([H:9])[N:4]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])[C:5]1=[O:7]>>[C:1](=[N:4]\[C:5]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])=[O:7])(\[O:6][H:8])[H:9],62.72239000001264
MR_570574_1,[C:1](=[C:2]([N:4]([H:12])[H:13])[N:5]([H:14])[H:15])([N:3]([H:10])[H:11])/[N:8]=[C:6](/[O:7][H:9])[H:16]>>[C:1]1([N:3]([H:10])[H:11])=[N:8][C:6]([O:7][H:9])([H:16])[C:2]1([N:4]([H:12])[H:13])[N:5]([H:14])[H:15],36.40504000000576
MR_250396_1,[C:1]([C:2]([O:5][H:8])=[O:7])([N:3]([H:10])[H:11])(/[C:4](=[N:6]/[H:12])[H:13])[H:9]>>[C:1](=[C:2](\[O:5][H:8])[O:7]/[C:4](=[N:6]/[H:12])[H:13])(\[N:3]([H:10])[H:11])[H:9],69.08084749997457
MR_69683_2,[C:1]1([O:4][H:7])([O:5][H:8])[C:2]([O:6][H:9])([H:10])[C:3]1([H:11])[H:12]>>[C:1]([C:2]([O:5][H:8])([O:6][H:9])[H:10])(=[C:3]([H:11])[H:12])[O:4][H:7],46.84099250001708
MR_312373_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([C:6]([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:10])=[O:9])[O:8][H:11]>>[C:1]([C:4]([H:15])([H:19])[H:20])([C:6]([C:3]([H:16])([H:17])[H:18])([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:10])[O:9][H:11])=[O:8],53.39774000001341
